US04829079
Example 47: 1-(4-hydroxybenzenesulphonyl)-2-oxo-5-ethoxypyrrolidine.
At 20° C., and under 1000 mbar, 6.3 g of 1-(4-benzyloxyphenylsulphonyl)-5-ethoxypyrrolidin-2-one is hydrogenated in the presence of 1.2 g of catalyst (Pd at 10%), in 150 cm3 of 96° ethanol. After filtering, concentrating the filtrate, and crystallizing the residue from 96° ethanol, 2.5 g of the expected product is obtained, m.p. 162°-163° C.

reactant | 1-(4-benzyloxyphenylsulphonyl)-5-ethoxypyrrolidin-2-one | 6.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1OCC)=O | C19H21NO5S
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-hydroxybenzenesulphonyl)-2-oxo-5-ethoxypyrrolidine | 2.5 g | OC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1OCC)=O | C12H15NO5S
